US04564479
The procedure described in Example 26 is repeated, but using 4.28 g (25 mmols) of 4-bromotoluene and 2.99 ml (27.5 mmols) of ethyl acrylate. After a reaction time of 23 hours at 130° C., 0.67 g (3.5 mmols) of ethyl 4-methylcinnamate is obtained, corresponding to a yield of 14% of theory (conversion figure 1400; Pd content 0.01 mol %).

reactant | 4-bromotoluene | 25 mmols, 4.28 g | BrC1=CC=C(C=C1)C | C7H7Br
reactant | ethyl acrylate | 27.5 mmols, 2.99 ml | C(C=C)(=O)OCC | C5H8O2
catalyst | Pd | [Pd] | Pd
product | ethyl 4-methylcinnamate | 3.5 mmols, 0.67 g, yield of 14% | CC1=CC=C(C=CC(=O)OCC)C=C1 | C12H14O2
